US05780470
1-(5-fluoro-6-methoxy-indan-1-yl)piperazine
1-Formyl-piperazine (2.1 g, 20 mmol), 5-fluoro-6-methoxy-indan-1-one (1.8 g, 10 mmol), titanium(IV) isopropoxide (5 ml, 15 mmol), and sodium borohydride (1.2 g, 30 mmol) were reacted by Method B to give the product (2.2 g, 88%, mp 163°-166° C.). Calcd for C14H19 FN2O.C4H4O4.0.1H2O: C, 56.23%; H, 6.56%; N, 7.28%. Found: C, 56.65%; H, 6.41%; N, 6.98%.

reactant | 1-Formyl-piperazine | 20 mmol, 2.1 g | C(=O)N1CCNCC1 | C5H10N2O
reactant | 5-fluoro-6-methoxy-indan-1-one | 10 mmol, 1.8 g | FC=1C=C2CCC(C2=CC1OC)=O | C10H9FO2
reactant | sodium borohydride | 30 mmol, 1.2 g | [BH4-].[Na+]
catalyst | titanium(IV) isopropoxide | 15 mmol, 5 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-(5-fluoro-6-methoxy-indan-1-yl)piperazine | 2.2 g, 88% | FC=1C=C2CCC(C2=CC1OC)N1CCNCC1 | C14H19FN2O
